US04399137
(a) 3-(2-Isopropylidene-hydrazino)-6-(2-methyl-imidazol-1-yl)-pyridazine
3.0 g (15.8 millimoles) of 3-hydrazino-6-(2-methyl-imidazol-1-yl)-pyridazine are suspended in 40 ml of acetone and the suspension is heated for 10 minutes on a steam bath under reflux.

reactant | 3-hydrazino-6-(2-methyl-imidazol-1-yl)-pyridazine | 15.8 millimoles, 3.0 g | N(N)C=1N=NC(=CC1)N1C(=NC=C1)C | C8H10N6
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-(2-Isopropylidene-hydrazino)-6-(2-methyl-imidazol-1-yl)-pyridazine | C(C)(C)=NNC=1N=NC(=CC1)N1C(=NC=C1)C | C11H14N6
